* Created by KLayout
*** My special header ***

* cell FILL3
* pin vss
* pin vdd
.SUBCKT FILL3 vss vdd
* device instance $1 r0 *1 8.1,45 PMOS
XM$1 vdd vss vdd vdd PMOS L=8.6u W=15.8u AS=44.24p AD=44.24p PS=37.2u PD=37.2u
* device instance $2 r0 *1 8.1,13.05 NMOS
XM$2 vss vdd vss vss NMOS L=8.6u W=13.1u AS=36.68p AD=36.68p PS=31.8u PD=31.8u
.ENDS FILL3
